US06057358
1-[4-Nitro-2-(1H-pyrrol-1-yl)phenoxy]-2-[N-(4-nitrophenethyl)-N-methylamino]ethane (0.71 g, 1.73 mmol) was dissolved in 80 ml of a 1:1 solvent system of ethyl acetate and methanol and, after slowly adding 10% Pd/C (0.2 g), the solution was stirred at an ordinary temperature for 3 h as hydrogen gas was injected. Thereafter, the reaction mixture was filtered through Celite and the filtrate was evaporated to yield the compound 1-[4-amino-2-(1H-pyrrol-1-yl)phenoxy]-2-[N-(4-aminophenethyl)-N-methylamino]ethane (0.6 g) as a dark brown oil. The compound was dissolved in pyridine (30 ml) and, thereafter, the solution was cooled at 0° C. and methanesulfonyl chloride (0.344 ml, 4.45 mmol) was slowly added. Thereafter, the mixture was stirred at an ordinary temperature for 20 h and ethanol was added; the solvent pyridine was evaporated under vacuum and the resulting residue was added to an aqueous solution of 10% sodium hydroxide, followed by extraction with ethyl acetate. The organic layer was washed with water twice, dried with magnesium sulfate, and the solvent was evaporated. The residue was purified by being subjected to column chromatography on silica gel using, as an eluent, ethyl acetate containing 5% methanol. The fractions containing the product were collected and the solvent was evaporated to yield the titled compound 1-[4-methanesulfonamido-2-(1H-pyrrol-1-yl)phenoxy]-2-[N-(4-methanesulfonamidophenethyl)-N-methylamino]ethane (0.43 g) as a pale yellow substance.

reactant | 1-[4-Nitro-2-(1H-pyrrol-1-yl)phenoxy]-2-[N-(4-nitrophenethyl)-N-methylamino]ethane | 1.73 mmol, 0.71 g | [N+](=O)([O-])C1=CC(=C(OCCN(C)CCC2=CC=C(C=C2)[N+](=O)[O-])C=C1)N1C=CC=C1 | C21H22N4O5
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
catalyst | Pd/C | 0.2 g | [Pd] | Pd
product | 1-[4-amino-2-(1H-pyrrol-1-yl)phenoxy]-2-[N-(4-aminophenethyl)-N-methylamino]ethane | 0.6 g | NC1=CC(=C(OCCN(C)CCC2=CC=C(C=C2)N)C=C1)N1C=CC=C1 | C21H26N4O
